### PR TITLE
[Merged by Bors] - feat: a continuous linear map is invertible iff it is an homeomorphism

### PR DESCRIPTION
**Pull request by ADedecker**
Also a bit of cleanup in the file.

---

- [x] depends on: #42697 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by themathqueen — COMMENTED** [review]
Please merge master :)

**Comment by ADedecker** [comment]
Done, thanks!

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Invertible.lean [hunk 1]
```diff
@@ -54,6 +54,18 @@ theorem inverse_equiv (e : M ≃L[R] M₂) : inverse (e : M →L[R] M₂) = e.sy
...
 
+lemma IsInvertible.of_inverse {f : M →L[R] M₂} {g : M₂ →L[R] M}
+    (hf : f ∘L g = .id R M₂) (hg : g ∘L f = .id R M) :
+    f.IsInvertible :=
+  ⟨ContinuousLinearEquiv.equivOfInverse' _ _ hf hg, rfl⟩
+
+lemma inverse_eq {f : M →L[R] M₂} {g : M₂ →L[R] M}
+    (hf : f ∘L g = .id R M₂) (hg : g ∘L f = .id R M) :
+    f.inverse = g := by
+  have : f = ContinuousLinearEquiv.equivOfInverse' f g hf hg := rfl
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Invertible.lean]: Can you add `toContinuousLinearMap_equivOfInverse'` and then use it here?

Don't add the rest of the API for `equivOfInverse'` though, because it's going to be renamed soon and I think that PR is also adding API, so there's no need for more if we're going to rename and deprecate soon.

But when you do that the proof of all this should just be something like `rw [<- toContinuousLinearMap_equivOfInverse]; simp`?

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Invertible.lean [hunk 2]
```diff
@@ -87,18 +89,6 @@ lemma IsInvertible.comp {g : M₂ →L[R] M₃} {f : M →L[R] M₂}
...
-    (hf : f ∘L g = .id R M₂) (hg : g ∘L f = .id R M) :
-    f.IsInvertible :=
-  ⟨ContinuousLinearEquiv.equivOfInverse' _ _ hf hg, rfl⟩
-
-lemma inverse_eq {f : M →L[R] M₂} {g : M₂ →L[R] M}
-    (hf : f ∘L g = .id R M₂) (hg : g ∘L f = .id R M) :
-    f.inverse = g := by
-  have : f = ContinuousLinearEquiv.equivOfInverse' f g hf hg := rfl
-  rw [this, inverse_equiv]
-  rfl
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Invertible.lean:100]: Oh, I see, you're just moving this. I thought you were adding it.

You can keep the same proof if you want then, but I'd change it.

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer delegate

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Invertible.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Invertible.lean]: Done (I also added the unprimed version).

**Comment by ADedecker** [comment]
Ah, I had missed this delegation!

bors merge
